US04589905
A solution of 3.2 g of 5-cyano-1-(4-bromophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester in 40 ml of 3 A alcohol and 10 ml of 40% aqueous monomethylamine was refluxed for approximately 2 hours. Ten additional milliliters of 40% aqueous monomethylamine was added to the reaction mixture which was then refluxed for an additional 3 hours. The mixture was cooled and the precipitated solid was collected by filtration to provide 1 g of 5-cyano-1-(4-bromophenyl)-N-methyl-1H-pyrazole-4-carboxamide. MP=240°-241° C.

reactant | 5-cyano-1-(4-bromophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 3.2 g | C(#N)C1=C(C=NN1C1=CC=C(C=C1)Br)C(=O)OCC | C13H10BrN3O2
reactant | monomethylamine | 10 ml | CN | CH5N
product | 5-cyano-1-(4-bromophenyl)-N-methyl-1H-pyrazole-4-carboxamide | 1 g | C(#N)C1=C(C=NN1C1=CC=C(C=C1)Br)C(=O)NC | C12H9BrN4O
